US07101918B2
In 200 ml of n-hexane were suspended 6.07 g (0.03 mol) of diphenylsulfoxide and 11.2 g (0.06 mol) of diphenylsulfide, and 48.0 g (0.18 mol) of aluminum bromide was added thereto at 20 to 40° C., followed by reacting at 60 to 65° C. for 6 hours with stirring. After completion of the reaction, the reaction solution was poured into 500 ml of 12% hydrobromic acid, followed by washing with 200 ml of n-hexane five times and extracting with 200 ml of dichloromethane. The obtained dichloromethane layer was washed with 200 ml of water five times, followed by concentration under reduced pressure to obtain a crude product. Then, 120 ml of acetone was added to the crude product to dissolve at 55° C., followed by cooling to 5° C. to obtain crystal. The crystal was filtered off to obtain 5.3 g (Yield: 39%) of dipheny-4-phenylthiophenylsulfonium bromide as a pale yellow crystal.

reactant | diphenylsulfoxide | 0.03 mol, 6.07 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | diphenylsulfide | 0.06 mol, 11.2 g | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | aluminum bromide | 0.18 mol, 48.0 g | [Br-].[Al+3].[Br-].[Br-]
reactant | hydrobromic acid | 500 ml | Br | BrH
solvent | n-hexane | 200 ml | CCCCCC | C6H14
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | dipheny-4-phenylthiophenylsulfonium bromide | 5.3 g, Yield: 39% | [Br-].C1(=CC=CC=C1)[S+](C1=CC=C(C=C1)SC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H19S2.BrH/c1-4-10-20(11-5-1)25-21-16-18-24(19-17-21)26(22-12-6-2-7-13-22)23-14-8-3-9-15-23;/h1-19H;1H/q+1;/p-1
